data/specific_train_final.csv
"[H:8][CH:7]([CH:5]1[C:3]([O:6]1)([CH3:4])[CH2:2][OH:1])[OH:9].[H:11][O:10]>>[H:11][O:10][H:8].[CH3:4][C:3]1([CH:5]([O:6]1)[CH:7][OH:9])[CH2:2][OH:1] 10-8,10;7,8-8,10;7,8-7",Room Temperature,Propagation,abstraction
"C1=CC=C(C=C1)C[O:21][O:20][O].[N+](=O)[O-]>>C1=CC=C(C=C1)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CCl)([O:20][O:21][O])Cl>>CC(CCl)([O:20])Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(CO)CO[O:20].[N+](=O)([O-])[O:10]>>C(CO)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C)[O:20][O:21]N=O)O[N+](=O)[O-]>>CC(C(C)O[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CCOO[O:20][N+:21](=O)[O-])O>>CC(C)(CCOO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].COCO[O:10]>>[H:20][O:10]OCOC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:20]1([CH:10]CO[O:21]1)C(O)OO>>C[C:20](=[CH:10]CO[O:21])C(O)OO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC1=C(C(C([CH:20]=[C:21]1O)O[N+](=O)[O-])(C)O[O:10])C>>CC1=C(C2(C([CH:20]([C:21]1O)[O:10]O2)O[N+](=O)[O-])C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"COC(CO)[O:20][O:21]OO>>COC(CO)[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:20](=[CH:21]CO)[O:10].[N+](=O)([O-])[O]>>C[C:20](=[O:10])[CH:21]CO.[N+](=O)([O-])[O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,resonance
"C1=CC2C(C([CH:10]1)OO2)O.[O:20][O]>>C1=C[CH:10](C2C(C1OO2)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C/[C:21]([CH2:20][O:10][H])=[CH:22]\[CH2:23][O:30][O:31].[H:50][O:51][O:52]>>C/[C:21]([CH2:20][O:10][H])=[CH:22]\[CH2:23][O:30][O:31][H:50].[O:51][O:52] 31-31,50;50,51-31,50;50,51-51",Room Temperature,Propagation,abstraction
"[H:11][O:12][O:13].[CH3:10][C:3](=[CH:2][OH:1])[CH:4]([CH2:5][O:6][O:7])[O:8][OH:9]>>[H:11][O:7][O:6][CH2:5][CH:4]([C:3](=[CH:2][OH:1])[CH3:10])[O:8][OH:9].[O:12][O:13] 11,12-12; 11,12-11,7; 7-11,7",Room Temperature,Propagation,abstraction
"CC1(C2CCC(C1C2)(CO)[O:20][O:21][O])C.[N+](=O)[O-]>>CC1(C2CCC(C1C2)(CO)[O:20])C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C(CO[O:20])O[N+](=O)[O-])O.[N+](=O)([O-])[O:10]>>CC(C)(C(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:8][C:3]([CH:4]=[O:5])([C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:9][O:10][H:11])[O:6][O:7]>>[H:8][C:3]([CH:4]=[O:5])([C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:9][O:10])[O:6][O:7][H:11] 7-7,11; 10,11-7,11; 10,11-10",Room Temperature,Propagation,abstraction
"C/C(=C\CO)/[CH2:10].[O:20][O]>>C/C(=C\CO)/[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C(C(C)(C)O)[O:20][O:21][O]>>CC(=O)C(C(C)(C)O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CO[O:20])O.[N:10]=O>>CC(C)(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C)(C)C)O[O:20].[N:10]=O>>CC(C(C)(C)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:11][O:10][O:9][O:8][O:7][CH:6]([CH:12]([CH3:14])[OH:13])[O:5][CH2:4][CH2:3][CH2:2][CH3:1]>>[H:11][O:10][O:9][O:8].[CH3:1][CH2:2][CH2:3][CH2:4][O:5][CH:6]([CH:12]([CH3:14])[OH:13])[O:7] 7,8-7; 7,8-8",Room Temperature,Initiation,homolyze
"CCOC(C)(C)CO[O:20].[N+](=O)([O-])[O:10]>>CCOC(C)(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(CC(=O)C)O[O:10]>>[H:20][O:10]OC(C)CC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:21](=[CH:20]COO)CO[N+](=O)[O-].[OH:10]>>C[C:21](CO[N+](=O)[O-])[CH:20](COO)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(CCl)(O[O:20])Cl.[N:10]=O>>CC(CCl)(O[O:20][N:10]=O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1CCC(CC1)[O:20][O:21][O]>>C1CCC(CC1)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C=O)OO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CC(C(C=O)OO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC12C=CC(C(C1(C)O)(OO2)C)[O:20].[N+:10](=O)[O-]>>CC12C=CC(C(C1(C)O)(OO2)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)CCO[O:20].[N:10]=O>>CC(C)(C)CCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OC(=O)[CH2:20].[O:10][O]>>CC(C)(C)OC(=O)[CH2:20][O:10][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)CC(C)(CO[O:20])O.[N+](=O)([O-])[O:10]>>CC(=O)CC(C)(CO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
